US03954860
Diphenyl[1-(morpholinosulfonylamino)ethyl]phosphine oxide. ##EQU27##
When a mixture of equimolar quantities of phenyl diphenylphosphinite, acetaldehyde, and morpholinosulfonylamine in chlorobenzene is treated by the procedure used in the preceding experiment, the product is a white solid, mp 215°-217°C., 31P nmr (DMSO-d6) -30.9 ppm.

reactant | phenyl diphenylphosphinite | C1(=CC=CC=C1)P(OC1=CC=CC=C1)C1=CC=CC=C1 | C18H15OP
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | morpholinosulfonylamine | O1CCN(CC1)S(=O)(=O)N | C4H10N2O3S
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl[1-(morpholinosulfonylamino)ethyl]phosphine oxide | C1(=CC=CC=C1)P(C(C)NS(=O)(=O)N1CCOCC1)(C1=CC=CC=C1)=O | C18H23N2O4PS
